US08026257B2
(±)-7-(1-((4-Phenylpiperidin-4-yl)methoxy)ethyl)-5-(trifluoromethyl)-1H-indazole-3-carbonitrile.
(±)-tert-Butyl 4-((1-(3-cyano-5-(trifluoromethyl)-1H-indazol-7-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate (40 mg, 0.08 mmol) was treated with a trifluoroacetic acid/methylene chloride mixture (1:1, 2 mL) for 1 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol. The solvent was evaporated to afford 25 mg (77%) as a clear oil. 1H-NMR (CDCl3, 500 MHz) δ 7.89 (s, 1H), 7.54 (d, J=1.8 Hz, 1H), 7.37-7.40 (m, 2H), 7.30-7.32 (m, 3H), 7.69 (m, 1H), 4.49 (q, J=6.7 Hz, 1H), 3.40 (q, J=9.2 Hz, 1H), 3.29 (d, J=9.2 Hz, 1H), 2.87-2.93 (m, 2H), 2.67-2.77 (m, 2H), 2.07-2.26 (m, 2H), 1.78-1.93 (m, 2H), 1.41 (m, 3H); 13C-NMR (126 MHz, CDCl3) δ ppm 143.2, 138.4, 129.4, 129.1, 127.2, 127.0, 126.0 (q, J=32.6 Hz), 124.7, 124.1 (q, J=273 Hz), 121.0, 120.3, 116.6, 77.3, 50.6, 42.4, 41.7, 33.1, 22.3. Mass spec.: 429.13 (MH)+.

reactant | (±)-tert-Butyl 4-((1-(3-cyano-5-(trifluoromethyl)-1H-indazol-7-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.08 mmol, 40 mg | C(#N)C1=NNC2=C(C=C(C=C12)C(F)(F)F)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C28H31F3N4O3
reactant | trifluoroacetic acid methylene chloride | 2 mL | FC(C(=O)O)(F)F.C(Cl)Cl
product | (±)-7-(1-((4-Phenylpiperidin-4-yl)methoxy)ethyl)-5-(trifluoromethyl)-1H-indazole-3-carbonitrile | C1(=CC=CC=C1)C1(CCNCC1)COC(C)C=1C=C(C=C2C(=NNC12)C#N)C(F)(F)F | C23H23F3N4O
